### PR TITLE
Bayesian regret of Thompson sampling

### PR DESCRIPTION
**Pull request by paulorauber**

### CODE REVIEW

File: LeanBandits/BanditAlgorithms/TS.lean [hunk 1]
```diff
@@ -0,0 +1,61 @@
+/-
+Copyright (c) 2025 Rémy Degenne. All rights reserved.
```
Comment (RemyDegenne) [inline LeanBandits/BanditAlgorithms/TS.lean]:
```suggestion
Copyright (c) 2026 Rémy Degenne. All rights reserved.
```

File: LeanBandits/SequentialLearning/BayesStationaryEnv.lean [hunk 2]
```diff
@@ -0,0 +1,56 @@
...
+variable (Q : Measure E) [IsProbabilityMeasure Q] (κ : Kernel (α × E) R) [IsMarkovKernel κ]
+
+noncomputable
+def StationaryEnv : Environment α (E × R) where
+  feedback n :=
+    let g : (Iic n → α × E × R) × α → α × E := fun (h, a) => (a, (h ⟨0, by simp⟩).2.1)
+    (Kernel.deterministic (Prod.snd ∘ g) (by fun_prop)) ×ₖ (κ.comap g (by fun_prop))
+  h_feedback := inferInstance
+  ν0 := (Kernel.const α Q) ⊗ₖ κ
+  hp0 := Kernel.IsMarkovKernel.compProd _ _
```
[the remark this answers is not in the document]
Comment (paulorauber) [reply LeanBandits/SequentialLearning/BayesStationaryEnv.lean]: These are remnants from an older version, thanks!

**Review by RemyDegenne — COMMENTED** [review]
Why do you work within a particular probability space, with particular `action`, `reward`, etc., instead of introducing generic variables `A`, `R`, `E`, that satisfy an alg-env-sequence condition?
In the other parts of the repository, everything is done under such a condition, and the probability space coming from trajMeasure is not even used (as perhaps best seen on the [dependency graph](https://remydegenne.github.io/lean-bandits/blueprint/dep_graph_document.html))

File: LeanBandits/BanditAlgorithms/TS.lean [hunk 3]
```diff
@@ -0,0 +1,1144 @@
...
+    (hs : ∀ a e, HasSubgaussianMGF (fun x ↦ x - (κ (a, e))[id]) 1 (κ (a, e)))
+    (hm : ∀ a e, (κ (a, e))[id] ∈ Set.Icc 0 1)
+    (a : Fin K) (s : ℕ) (δ : ℝ) (hδ : 0 < δ) (hδ1 : δ < 1)
+    (hδ_large : 1 < 2 * Real.log (1 / δ)) :
+    ∀ᵐ e ∂(P.map (IsBayesAlgEnvSeq.env R')),
+      (condDistrib (IsBayesAlgEnvSeq.traj A R') (IsBayesAlgEnvSeq.env R') P e)
+        {ω | √(2 * Real.log (1 / δ) / (max 1 (pullCount IT.action a s ω) : ℝ)) ≤
+          |empMean IT.action IT.reward a s ω - (κ (a, e))[id]|} ≤
+      ENNReal.ofReal (2 * s * δ) := by
+  filter_upwards [IsBayesAlgEnvSeq.condDistrib_traj_isAlgEnvSeq h] with e h_isAlgEnvSeq
```
Comment (RemyDegenne) [inline LeanBandits/BanditAlgorithms/TS.lean]: This line reduces the proof to a statement about an `IsAlgEnvSeq`, and I suspect that the Bayesian context is not used further. For this lemma (and problably other concentration results?) it looks like you could first extract results about `IsAlgEnvSeq` and then the bayesian lemmas would be simple consequences.

File: LeanMachineLearning/Probability/Independence/CondDistrib.lean [hunk 4]
```diff
@@ -383,6 +392,17 @@ lemma ae_eq_of_condDistrib_eq_deterministic {f : β → Ω} (hf : Measurable f)
   rw [condDistrib_ae_eq_iff_measure_eq_compProd _ (by fun_prop)] at h hfX
   exact ae_eq_of_map_prodMk_eq hf hX hY (hfX ▸ h)
 
+/-- The marginal law of `Y` is obtained by integrating `condDistrib Y X μ` against `μ.map X`. -/
+lemma map_bind_condDistrib (hX : Measurable X) (hY : AEMeasurable Y μ) :
+    (μ.map X).bind (condDistrib Y X μ) = μ.map Y := by
+  rw [← Measure.snd_compProd, compProd_map_condDistrib hY, Measure.snd_map_prodMk hX]
```
Comment (RemyDegenne) [inline LeanMachineLearning/Probability/Independence/CondDistrib.lean]: That's [ProbabilityTheory.condDistrib_comp_map](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/Kernel/CondDistrib.html#ProbabilityTheory.condDistrib_comp_map)

File: LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean [hunk 5]
```diff
@@ -0,0 +1,416 @@
...
+  hasCondDistrib_action n :
+    HasCondDistrib (A (n + 1)) (fun ω ↦ (E ω, IsAlgEnvSeq.hist A R' n ω))
+      ((alg.policy n).prodMkLeft _) P
+  hasCondDistrib_reward n :
+    HasCondDistrib (R' (n + 1)) (fun ω ↦ (IsAlgEnvSeq.hist A R' n ω, E ω, A (n + 1) ω))
+      (κ.prodMkLeft _) P
+
+namespace IsBayesAlgEnvSeq
+
+def trajectory (A : ℕ → Ω → α) (R' : ℕ → Ω → R) (ω : Ω) : ℕ → α × R := fun n ↦ (A n ω, R' n ω)
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean]: Up to the order of the arguments `(n : ℕ) (ω : Ω)`, this is the same thing as `IsAlgEnvSeq.step` (which we should rename because it does not use `IsAlgEnvSeq`):
```
def IsAlgEnvSeq.step (A : ℕ → Ω → α) (R' : ℕ → Ω → R) (n : ℕ) (ω : Ω) : α × R :=
  (A n ω, R' n ω)
```
The `step` name comes from its interpretation as a stochastic process `ℕ → Ω → (α × R)` that gives for all `n` the random variable describing what happens at step `n` of the interaction.

So there should not be two definitions for the same thing.

File: LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean [hunk 6]
```diff
@@ -0,0 +1,416 @@
...
+    ∀ᵐ e ∂Q, IsAlgEnvSeq IT.action IT.reward alg (stationaryEnv (κ.sectR e))
+      (condDistrib (trajectory A R') E P e) := by
+  filter_upwards [hasLaw_IT_action_zero h, hasCondDistrib_IT_reward_zero h,
+    ae_all_iff.2 (hasCondDistrib_IT_action h), ae_all_iff.2 (hasCondDistrib_IT_reward h)]
+    with _ ha0 hr0 hA hR
+  exact ⟨IT.measurable_action, IT.measurable_reward, ha0, hr0, hA, hR⟩
+
+end CondDistribIsAlgEnvSeq
+
+section HasSubgaussianMGF
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean]: This section should go to another file.
Ideally this file should not import `SumRewards`: this file is about one of the basic structures that we use to define algorithm-environment interactions, so it shoud be near the bottom of the import hierarchy.

File: LeanMachineLearning/Online/Bandit/Algorithms/TS.lean [hunk 7]
```diff
@@ -0,0 +1,473 @@
...
+            rw [← Real.sqrt_mul' _ (by positivity)]
+            ring_nf
+
+variable [Nonempty (Fin K)]
+variable [MeasurableSpace Ω]
+variable {𝓔 : Type*} [MeasurableSpace 𝓔]
+variable {E : Ω → 𝓔}
+variable {Q : Measure 𝓔} {κ : Kernel (𝓔 × Fin K) ℝ} [IsMarkovKernel κ]
+variable {P : Measure Ω} [IsProbabilityMeasure P]
+
```
Comment (RemyDegenne) [inline LeanMachineLearning/Online/Bandit/Algorithms/TS.lean]:
```suggestion

open IsBayesAlgEnvSeq

```
Then you can remove all the `IsBayesAlgEnvSeq.` in the lemmas below and make the equations a bit more readable.

File: LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean (hunk 5 above)
Comment (paulorauber) [reply LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean]: This was on purpose, so let me clarify it.

Although `(fun ω n ↦ IsAlgEnvSeq.step A R' n ω) = trajectory A R'`, the concept of trajectory is very natural and therefore appears quite a few times, which I think justifies having a name for it.

I guess this is to be expected since both the stochastic process view based on `ℕ → Ω → (α × R)` and the random element perspective based on `Ω → ℕ → (α × R)` are useful in different contexts.

However, I do think that we should introduce the concept of trajectory independently of `IsBayesAlgEnvSeq`. Here and in a few other cases, I implicitly kept things close to where they were used so that the PR doesn't end up sprawling too many files, but I probably should have documented this at the time.

If you still think the concept of trajectory is not a good idea, I can get rid of it.

File: LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean (hunk 6 above)
Comment (paulorauber) [reply LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean]: I agree. Do you have a suggestion?

It seems excessive to have a file just for the `IsBayesAlgEnvSeq` concentration inequalities with `HasSubgaussianMGF` assumptions, so maybe the file could also contain the concentration inequalities for the `IsAlgEnvSeq` with `HasSubgaussianMGF` assumptions?

Comment (RemyDegenne) [reply LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean]: Could you just put it in SumRewards (reversing the way the files import each other)? That's were the other concentration inequalities are at the moment.

File: LeanMachineLearning/Online/Bandit/Algorithms/TS.lean (hunk 7 above)
Comment (paulorauber) [reply LeanMachineLearning/Online/Bandit/Algorithms/TS.lean]: I made the two definitions needed available through `open IsBayesAlgEnvSeq (bestAction actionMean)`, placed it earlier in the file. I avoided opening the entire namespace because of `regret`.

File: LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean (hunk 6 above)
Comment (paulorauber) [reply LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean]: I placed the results at the bottom of SumRewards. It is worth noting that these results are about means rather than sums of rewards, in contrast to the other results in this file.

File: LeanMachineLearning/SequentialLearning/Algorithms/Uniform.lean [hunk 8]
```diff
@@ -0,0 +1,51 @@
...
+
+open scoped Algorithm
+
+namespace Bandits
+
+variable {𝓨 : Type*} {m𝓨 : MeasurableSpace 𝓨} {K : ℕ}
+
+/-- The Uniform algorithm: actions are chosen uniformly at random. -/
+noncomputable
+def uniformAlgorithm (hK : 0 < K) : Algorithm (Fin K) 𝓨 :=
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/Algorithms/Uniform.lean]: Could you put this in the RandomSampling file? And also define `uniformAlgorithm` as `randomSampling` with the uniform distribution.

Comment (paulorauber) [reply LeanMachineLearning/SequentialLearning/Algorithms/Uniform.lean]: I generalized `uniformAlgorithm` to any finite non-empty type of actions, but I kept it in a separate file because `RandomSampling.lean` does not have a good reason to import `AlgorithmDensity.lean` (and `AbsolutelyContinuous.lean`).

File: LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean [hunk 9]
```diff
@@ -0,0 +1,369 @@
...
+/-- `IsBayesAlgEnvSeq Q κ alg E A Y P` states that there is a measure `P : Measure Ω` such
+  that the random variable `E : Ω → 𝓔` has law `Q` and that the sequences of actions `A : ℕ → Ω → 𝓐`
+  and feedbacks `Y : ℕ → Ω → 𝓨` are generated by the algorithm `alg : Algorithm 𝓐 𝓨` interacting
+  with an underlying environment that depends on `E` and `κ` (`stationaryEnv (κ.sectR (E ω))`). -/
+structure IsBayesAlgEnvSeq
+    [StandardBorelSpace 𝓐] [Nonempty 𝓐] [StandardBorelSpace 𝓨] [Nonempty 𝓨]
+    (Q : Measure 𝓔) (κ : Kernel (𝓔 × 𝓐) 𝓨) (alg : Algorithm 𝓐 𝓨)
+    (E : Ω → 𝓔) (A : ℕ → Ω → 𝓐) (Y : ℕ → Ω → 𝓨)
+    (P : Measure Ω) [IsFiniteMeasure P] : Prop where
+  measurable_E : Measurable E := by fun_prop -- todo rename
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean]: Could we rename this to not use the name of the variable? That's a parameter of a Bayesian environment, so `measurable_param` perhaps?

File: LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean [hunk 10]
```diff
@@ -0,0 +1,369 @@
...
+
+/-- A random variable that gives the gap at time `n`. -/
+noncomputable
+def gap (κ : Kernel (𝓔 × 𝓐) ℝ) (E : Ω → 𝓔) (A : ℕ → Ω → 𝓐) (n : ℕ) (ω : Ω) : ℝ :=
+  Bandits.gap (κ.sectR (E ω)) (A n ω)
+
+omit [MeasurableSpace Ω] in
+/-- The gap is non-negative if the means are bounded by `u : ℝ` (even if `𝓐` is not `Finite`). -/
+lemma gap_nonneg_of_le {κ : Kernel (𝓔 × 𝓐) ℝ} {E : Ω → 𝓔} {A : ℕ → Ω → 𝓐} {n : ℕ} {ω : Ω} {u : ℝ}
+    (h : ∀ e a, (κ (e, a))[id] ≤ u) : 0 ≤ gap κ E A n ω := by
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean]: This follows from a similar statement for the non-Bayesian gap. Could you add it? Same remark for the next two lemmas.

File: LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean [hunk 11]
```diff
@@ -0,0 +1,369 @@
...
+  exact integrable_finsetSum _ (fun _ _ ↦ integrable_gap hE hA h)
+
+end Real
+
+variable [StandardBorelSpace 𝓐] [Nonempty 𝓐] [StandardBorelSpace 𝓨] [Nonempty 𝓨]
+variable {Q : Measure 𝓔} {κ : Kernel (𝓔 × 𝓐) 𝓨} {alg : Algorithm 𝓐 𝓨}
+variable {E : Ω → 𝓔} {A : ℕ → Ω → 𝓐} {Y : ℕ → Ω → 𝓨}
+variable {P : Measure Ω} [IsFiniteMeasure P]
+
+section Laws
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean]: Can you move the sections on laws and conditional laws above the `Real` section, right after the definition of the structure?

File: LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean (hunk 9 above)
Comment (paulorauber) [reply LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean]: I have changed to `measurable_param` and updated the documentation to use the term "parameter".

File: LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean [hunk 12]
```diff
@@ -0,0 +1,365 @@
...
+    ∀ᵐ e ∂Q, IsAlgEnvSeq IT.action IT.feedback alg (stationaryEnv (κ.sectR e))
+      (condDistrib (trajectory A Y) E P e) := by
+  filter_upwards [hasLaw_IT_action_zero h, hasCondDistrib_IT_feedback_zero h,
+    ae_all_iff.2 (hasCondDistrib_IT_action h), ae_all_iff.2 (hasCondDistrib_IT_feedback h)]
+    with _ ha0 hr0 hA hR
+  exact ⟨IT.measurable_action, IT.measurable_feedback, ha0, hr0, hA, hR⟩
+
+end Laws
+
+section Real
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean]: Can you put that Real section into another file? That file would be in Online/Bandit.

File: LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean (hunk 10 above)
Comment (paulorauber) [reply LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean]: The first two proofs are now just terms: `Bandits.gap_nonneg_of_le (h (E ω))` and `Bandits.gap_le_of_mem_Icc (h (E ω))`.

However, I am not sure about changing the third. The analogous result already exists in `Regret.lean`: `gap_eq_bestARm_sub`, but `bestAction` in this file is defined through a `measurableArgmax`.

Comment (RemyDegenne) [reply LeanMachineLearning/SequentialLearning/BayesStationaryEnv.lean]: Ok, let's leave the third one as it is then.

File: LeanMachineLearning/Online/Bandit/Algorithms/TS.lean [hunk 13]
```diff
@@ -0,0 +1,107 @@
...
+noncomputable
+def TS.initialPolicy (hK : 0 < K) (Q : Measure 𝓔) (κ : Kernel (𝓔 × Fin K) ℝ) : Measure (Fin K) :=
+  have : Nonempty (Fin K) := Fin.pos_iff_nonempty.mp hK
+  Q.map (bestAction κ id)
+
+instance {hK : 0 < K} {Q : Measure 𝓔} [IsProbabilityMeasure Q] {κ : Kernel (𝓔 × Fin K) ℝ} :
+    IsProbabilityMeasure (TS.initialPolicy hK Q κ) :=
+  Measure.isProbabilityMeasure_map (by fun_prop)
+
+/-- The Thompson sampling algorithm. -/
```
Comment (RemyDegenne) [inline LeanMachineLearning/Online/Bandit/Algorithms/TS.lean]: Can you expand that docstring to explain what TS does?

File: LeanMachineLearning/Online/Bandit/Algorithms/TS.lean [hunk 14]
```diff
@@ -0,0 +1,107 @@
...
+end Algorithm
+
+variable {K : ℕ} [Nonempty (Fin K)]
+variable {Ω : Type*} [MeasurableSpace Ω]
+variable {𝓔 : Type*} [MeasurableSpace 𝓔] [StandardBorelSpace 𝓔] [Nonempty 𝓔]
+variable {E : Ω → 𝓔} {A : ℕ → Ω → Fin K} {R : ℕ → Ω → ℝ}
+variable {Q : Measure 𝓔} [IsProbabilityMeasure Q] {κ : Kernel (𝓔 × Fin K) ℝ} [IsMarkovKernel κ]
+variable {P : Measure Ω} [IsProbabilityMeasure P]
+
+lemma TS.hasCondDistrib_action (hK : 0 < K) (h : IsBayesAlgEnvSeq Q κ (tsAlgorithm hK Q κ) E A R P)
```
Comment (RemyDegenne) [inline LeanMachineLearning/Online/Bandit/Algorithms/TS.lean:94]: Please add a docstring for this lemma.

File: LeanMachineLearning/Online/Bandit/Algorithms/Regret/BayesRegretTS.lean [hunk 15]
```diff
@@ -0,0 +1,415 @@
...
+    _ = (∑ t ∈ range n, ∫ ω, actionMean κ E (bestAction κ E ω) ω -
+              ucb A R l u σ2 δ (bestAction κ E ω) t ω ∂P) +
+          ∑ t ∈ range n, ∫ ω, ucb A R l u σ2 δ (A t ω) t ω -
+            actionMean κ E (A t ω) ω ∂P := by
+        rw [← Finset.sum_sub_distrib, ← Finset.sum_sub_distrib]
+        simp_rw [← integral_sub hab (hub _), ← integral_sub (hua _) (haa _)]
+    _ = _ := by
+        rw [← integral_finsetSum _ (by fun_prop), ← integral_finsetSum _ (by fun_prop)]
+
+lemma integral_regret_le (hK : 0 < K) (h : IsBayesAlgEnvSeq Q κ (tsAlgorithm hK Q κ) E A R P)
```
Comment (RemyDegenne) [inline LeanMachineLearning/Online/Bandit/Algorithms/Regret/BayesRegretTS.lean]:
```suggestion
theorem integral_regret_le (hK : 0 < K) (h : IsBayesAlgEnvSeq Q κ (tsAlgorithm hK Q κ) E A R P)
```
And please add a docstring

**Review by RemyDegenne — APPROVED** [review]
